US06028080
1.5 g (4.8 mmol) of 2-benzylmethylamino-l-(3-methoxycarbonylmethylphenyl)ethanol are dissolved in 13 ml of dichloromethane. 3.7 ml of conc. sulfuric acid are added dropwise to this solution with cooling and stirring. It is stirred at room temperature for three hours. The reaction solution is diluted with dichloromethane and treated with ice. This solution is then adjusted to an alkaline pH using NaOH solution. The deposited organic phase is separated off. The aqueous phase is extracted twice more with dichloromethane. The combined organic phases are dried and the solvent is distilled off. The residue is taken up in ether and the solution is filtered. Methyl 3-[2-methyl-1,2,3,4-tetrahydro-4-(R,S)-isoquinolinyl]phenyl-acetate is obtained as an oil.

reactant | 2-benzylmethylamino-l-(3-methoxycarbonylmethylphenyl)ethanol | 4.8 mmol, 1.5 g | C(C1=CC=CC=C1)CNCC(O)C1=CC(=CC=C1)CC(=O)OC | C19H23NO3
reactant | sulfuric acid | 3.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | dichloromethane | 13 ml | ClCCl | CH2Cl2
product | Methyl 3-[2-methyl-1,2,3,4-tetrahydro-4-(R,S)-isoquinolinyl]phenyl-acetate | CN1CC2=CC=CC=C2C(C1)C=1C=C(C=CC1)CC(=O)OC | C19H21NO2
